US08030499B2
Step 237-1: Synthesis of (4-bromo-3-methoxyphenyl)methanol
To a solution of 5.00 g of 3-methoxybenzyl alcohol in MeCN-water (180 ml, 1:1) was added 8.60 g sodium hydrogen sulfite and 8.19 g of sodium bromate and the reaction mixture was stirred at room temperature for two hours. After the reaction, an aqueous solution of 10% sodium thiosulfate and Et2O were added, and liquid separation was performed. After the organic layer was sequentially washed with 5% K2CO3, water and saturated brine, and dried over MgSO4, the drying agent was separated by filtration and the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60; mobile phase: EtOAc/n-hexane=1/4; v/v) to obtain 5.02 g of the title compound (colorless solid).

reactant | 3-methoxybenzyl alcohol | 5.00 g | COC=1C=C(CO)C=CC1 | C8H10O2
reactant | sodium hydrogen sulfite | 8.60 g | S(=O)(O)[O-].[Na+]
reactant | sodium bromate | 8.19 g | Br(=O)(=O)[O-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | MeCN water | 180 ml | CC#N.O
solvent | Et2O | CCOCC | C4H10O
product | (4-bromo-3-methoxyphenyl)methanol | 5.02 g | BrC1=C(C=C(C=C1)CO)OC | C8H9BrO2
